US08440662B2
Step 3: 4-[3-(4-Bromo-phenyl)-ureido]-N,N-dimethyl-benzamide
To a solution of 4-amino-N,N-dimethyl-benzamide (3.5 g, 0.0213 mol), TEA (2.15 g, 0.0213 mol) in DCM (50 mL) was added 4-bromophenyl isocyanate (5.07 g, 0.0256 mol). The reaction mixture was stirred at room temperature for 12 h. The white solid was obtained and was filtered and dried to afford the title compound [6.8 g, 88%]; LC-MS (ESI): Calculated mass: 361.0; Observed mass: 362.0 [M+H]+ (RT: 0.17 min).

reactant | 4-amino-N,N-dimethyl-benzamide | 0.0213 mol, 3.5 g | NC1=CC=C(C(=O)N(C)C)C=C1 | C9H12N2O
reactant | 4-bromophenyl isocyanate | 0.0256 mol, 5.07 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-Bromo-phenyl)-ureido]-N,N-dimethyl-benzamide | 6.8 g, 88% | BrC1=CC=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O | C16H16BrN3O2
